US07553836B2
Step A. Preparation of 4-(2-(1H-pyrrol-1-yl)ethoxy)-3-methoxyaniline
Following procedure described in step A of Example 18, the title compound was prepared from the potassium salt of 2-methoxy-4-nitrophenol and 1-(2-bromoethyl)-1H-pyrrole in 76% yield. MS (ESI) 233 (M+H)+.

reactant | potassium | [K] | K
reactant | 2-methoxy-4-nitrophenol | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1-(2-bromoethyl)-1H-pyrrole | BrCCN1C=CC=C1 | C6H8BrN
product | 4-(2-(1H-pyrrol-1-yl)ethoxy)-3-methoxyaniline | 76% yield | N1(C=CC=C1)CCOC1=C(C=C(N)C=C1)OC | C13H16N2O2
